US07091357B2
To a stirred solution of (S)-nicotine (0.46 g, 2.8 mmol) in AcOH (10 ml) was added trans-1-bromo-oct-3-ene (1.37 g, 7.17 mmol). The mixture was heated at reflux for 3 days. AcOH was evaporated and the residue was recrystallized in ethyl acetate-CHCl3 to afford (S)-trans-3-(1-methyl-pyrrolidin-2-yl)-1-oct-3-enyl-pyridinium bromide hydrobromide salt (NONB-3t) (0.76 g, 62%) as hygroscopic white crystals: 1H NMR (300 MHz, CDCl3) δ 11.55 (1H, s), 10.27 (1H, s), 9.46 (1H, d, J=7.5 Hz), 9.16 (1H, d, J=5.7 Hz), 8.22 (1H, dd, J=7.5, 5.7 Hz), 5.72 (1H, m), 5.41 (2H, m), 4.88 (2H, m), 3.98 (1H, m), 3.38 (1H, m), 2.94 (3H, s), 2.60–2.90 (3H, m), 2.43 (3H, m), 1.86 (2H, m), 1.00–1.25 (4H, m), 0.79 (3H, t, J=7.2 Hz); 13C NMR (75 MHz, CDCl3) δ 147.29, 146.41, 145.11, 137.58, 134.31, 128.44, 122.37, 67.18, 62.27, 56.04, 38.57, 34.49, 32.30, 32.00, 31.41, 22.32, 21.83, 14.12; Anal. Calcd for C18H30Br2N2.0.3H2O: C, 49.22; H, 6.93; N, 6.38. Found: C, 49.25; H, 7.03; N, 6.30.

reactant | (S)-nicotine | 2.8 mmol, 0.46 g | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
reactant | trans-1-bromo-oct-3-ene | 7.17 mmol, 1.37 g | BrCC\C=C\CCCC | C8H15Br
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | (S)-trans-3-(1-methyl-pyrrolidin-2-yl)-1-oct-3-enyl-pyridinium bromide hydrobromide salt | 0.76 g, 62% | Br.[Br-].CN1[C@@H](CCC1)C=1C=[N+](C=CC1)CC\C=C\CCCC | InChI=1S/C18H29N2.2BrH/c1-3-4-5-6-7-8-14-20-15-9-11-17(16-20)18-12-10-13-19(18)2;;/h6-7,9,11,15-16,18H,3-5,8,10,12-14H2,1-2H3;2*1H/q+1;;/p-1/b7-6+;;/t18-;;/m0../s1
